US07265149B2
In analogy to the procedure described in example 1 f], (6-{2-[2-methyl-5-(4-trifluoromethoxy-phenyl)-2H-pyrazol-3-yl]-ethoxy}-indol-1-yl)-acetic acid ethyl ester was treated with LiOH to obtain (6-{2-[2-methyl-5-(4-trifluoromethoxy-phenyl)-2H-pyrazol-3-yl]-ethoxy}-indol-1-yl)-acetic acid as colorless crystals.

reactant | (6-{2-[2-methyl-5-(4-trifluoromethoxy-phenyl)-2H-pyrazol-3-yl]-ethoxy}-indol-1-yl)-acetic acid ethyl ester | C(C)OC(CN1C=CC2=CC=C(C=C12)OCCC=1N(N=C(C1)C1=CC=C(C=C1)OC(F)(F)F)C)=O | C25H24F3N3O4
reactant | LiOH | [Li+].[OH-]
product | (6-{2-[2-methyl-5-(4-trifluoromethoxy-phenyl)-2H-pyrazol-3-yl]-ethoxy}-indol-1-yl)-acetic acid | CN1N=C(C=C1CCOC1=CC=C2C=CN(C2=C1)CC(=O)O)C1=CC=C(C=C1)OC(F)(F)F | C23H20F3N3O4
